US04375475
Step A. Preparation of 6-(2,4-Dichlorophenyl)-2-oxo-5-hexene-4-yl Acetate
Acetyl chloride (1.2 ml, 16.5 mmole) was added dropwise to a stirred solution of 6-(2,4-dichlorophenyl)-4-hydroxy-5-hexene-2-one (3.9 g, 15 mmole) in pyridine (60 ml) at 0° C. The ice bath was removed, and the reaction mixture was stirred at 20° C. for 2 hours and then diluted with ether (300 ml). The ether solution was washed with 1 N HCl (3×300 ml) and saturated NaHCO3, dried over MgSO4, filtered and evaporated. The residual pale amber oil (4.1 g) was chromatographed on a 50 mm column with 15 cm of silica gel (230-400 mesh). Elution with methylene chloride (2 L) provided the title compound as a pale yellow oil (3.95 g, 87%): pmr (CDCl3) δ2.03 (3H, s), 2.17 (3H, s), 2.83 (2H, dd).

reactant | Acetyl chloride | 16.5 mmole, 1.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-(2,4-dichlorophenyl)-4-hydroxy-5-hexene-2-one | 15 mmole, 3.9 g | ClC1=C(C=CC(=C1)Cl)C=CC(CC(C)=O)O | C12H12Cl2O2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2,4-Dichlorophenyl)-2-oxo-5-hexene-4-yl Acetate | 3.95 g, 87% | C(C)(=O)OC(CC(C)=O)C=CC1=C(C=C(C=C1)Cl)Cl | C14H14Cl2O3
